US04801717
4-methylsulfonyl-bromobenzene was reacted with nitric acid to obtain 2-nitro-4-methylsulfonyl-bromobenzene melting at 126° C. which was reacted with N-hydroxy-phthalimide to obtain 0-(4-methylsulfonyl-2-nitro-phenoxy)-phthalimide melting at 215° C. The latter was reacted to obtain 0-(4-methylsulfonyl-2-nitro-phenyl)-hydroxylamine melting at 190° C.

reactant | 4-methylsulfonyl-bromobenzene | CS(=O)(=O)C1=CC=C(C=C1)Br | C7H7BrO2S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 2-nitro-4-methylsulfonyl-bromobenzene | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C)Br | C7H6BrNO4S
